US07745438B2
1-Fluoro-2-(2-vinyloxyethyl)-benzene
Combine 2-(2-fluorophenyl)-ethanol (3.08 g, 22.0 mmol), vinyl acetate (4 mL, 43.3 mmol), anhydrous toluene (22 mL), chloro(1,5-cyclooctadiene)iridium(I) dimer (155 mg, 0.231 mmol), and anhydrous sodium carbonate (1.5 g, 14.2 mmol) in a dry round-bottom flask fitted with a reflux condensor under a nitrogen atmosphere. Heat the resulting mixture to 95° C. for 5 hours. Cool the reaction mixture to room temperature. Vacuum filter the resultant slurry to remove inorganic precipitates, washing the collected solid with hexanes. Concentrate and purify (silica gel chromatography, eluting with hexanes) to give the title compound as a yellow oil (2.64 g, 72%).

reactant | 2-(2-fluorophenyl)-ethanol | 22.0 mmol, 3.08 g | FC1=C(C=CC=C1)CCO | C8H9FO
reactant | vinyl acetate | 43.3 mmol, 4 mL | C(C)(=O)OC=C | C4H6O2
reactant | sodium carbonate | 14.2 mmol, 1.5 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | chloro(1,5-cyclooctadiene)iridium(I) dimer | 0.231 mmol, 155 mg | C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Cl-].[Cl-].[Ir].[Ir]
solvent | toluene | 22 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Fluoro-2-(2-vinyloxyethyl)-benzene | 2.64 g, 72% | FC1=C(C=CC=C1)CCOC=C | C10H11FO
